US04863942
In analogous manner, starting from N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-2-methylphenyl}-oxamic acid methyl ester there is obtained N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-2-methylphenyl}-oxamic acid having a melting point of 146°-148° (toluene) and the triethanolammonium salt thereof having a melting point of 114°-115°,

reactant | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-2-methylphenyl}-oxamic acid methyl ester | COC(C(=O)NC1=C(C(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C)=O | C24H29NO7
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-2-methylphenyl}-oxamic acid | C(C)(=O)C1=C(C(=C(OCCCOC=2C(=C(C=CC2)NC(C(=O)O)=O)C)C=C1)CCC)O | C23H27NO7
